US06462206B1
A 2 mL reactor was charged with 0.150 mL of a 1.00 M solution of 1-acetonaphthalene and 0.050 mL of a 0.030 M solution of [Cp*Ru(CO)2]2(μ-H)}+OTf− in dichlorobenzene. The reaction was heated at 90° C. for 12 hours at 820 psi (5.7 MPa) of hydrogen gas. The reaction was cooled, and analyzed using gas chromatography/mass spectroscopy. Analysis indicated 100% conversion of the 1-acetonaphthalene, with a greater than 90% yield of 1-ethylnaphthalene. Note that in this example, the alcohol itself (presumably initially formed from hydrogenation of the C═O double bond) undergoes a hydrogenation reaction to yield in the final product, 1-ethylnaphthalene.

reactant | 1-acetonaphthalene | CC(=O)C1=CC=CC2=CC=CC=C21 | C12H10O
reactant | hydrogen | [H][H] | H2
solvent | dichlorobenzene | C1=CC(=CC=C1Cl)Cl | C6H4Cl2
product | 1-ethylnaphthalene | greater than 90% yield | C(C)C1=CC=CC2=CC=CC=C12 | C12H12
